US04317830
Preparation of 1-[2-(Cyclohex-3-enyl)ethyl]imidazole
1-Chloro-2-(cyclohex-3-enyl)ethane (38.0 g, 0.265 mol) was added dropwise to a stirred, boiling solution of potassium tert-butoxide (30.0 g, 0.27 mol) and imidazole (18.0 g, 0.265 mol) in dry butan-1-ol. Following the addition, the reaction mixture was stirred and heated under reflux for 4 h.

reactant | 1-Chloro-2-(cyclohex-3-enyl)ethane | 0.265 mol, 38.0 g | ClCCC1CC=CCC1 | C8H13Cl
reactant | potassium tert-butoxide | 0.27 mol, 30.0 g | CC(C)([O-])C.[K+]
reactant | imidazole | 0.265 mol, 18.0 g | N1C=NC=C1 | C3H4N2
solvent | butan-1-ol | C(CCC)O | C4H10O
product | 1-[2-(Cyclohex-3-enyl)ethyl]imidazole | C1(CC=CCC1)CCN1C=NC=C1 | C11H16N2
